US07915424B2
3-Iodo-5-phenylethynylpyridine
Heat a mixture of 3-bromo-5-phenylethynylpyridine (5.71 g, 22.12 mmol), (prepared essentially as described in EXAMPLE 9), copper (I) iodide (211 mg, 1.1 mmol), sodium iodide (6.63 g, 44.24 mmol) and N,N′-dimethylethylenediamine (0.24 mL, 2.21 mmol) in 1,4-dioxane (20 mL) at 110° C. for 60 h. Cool to room temperature, dilute with ethyl acetate and wash with a saturated aqueous solution of sodium chloride, and dry (sodium sulfate). Purify the residue by silica gel chromatography, eluting with 15:1 hexanes:ethyl acetate, to give the title compound (5.45 g, 81%).

reactant | 3-bromo-5-phenylethynylpyridine | 22.12 mmol, 5.71 g | BrC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C13H8BrN
reactant | sodium iodide | 44.24 mmol, 6.63 g | [I-].[Na+]
reactant | N,N′-dimethylethylenediamine | 2.21 mmol, 0.24 mL | CNCCNC | C4H12N2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 1.1 mmol, 211 mg | [Cu]I
product | 3-Iodo-5-phenylethynylpyridine | 5.45 g, 81% | IC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C13H8IN
